US07723333B2
4-{[2-(3,5-Dimethyl-1H-pyrazol-4-yl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and [2-(3,5-dimethyl-1H-pyrazol-4-yl)ethyl]amine dihydrochloride in a similar manner as described for Example 24 with TEA as base. 1H NMR (500 MHz, CDCl3): δ 7.53-7.48 (m, 2H), 7.47-7.43 (m, 3H), 5.34 (t, 1H), 4.41 (sept, 1H), 3.01 (q, 2H), 2.41 (t, 2H), 2.05 (s, 6H), 1.58 (d, 6H); 13C NMR (125 MHz CDCl3): δ 158.8, 135.3, 131.5, 129.9, 129.0, 125.3, 111.2, 107.2, 47.8, 43.9, 23.7, 20.4, 10.9; Mass Spectrum: M+H+ 389

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | [2-(3,5-dimethyl-1H-pyrazol-4-yl)ethyl]amine dihydrochloride | Cl.Cl.CC1=NNC(=C1CCN)C
product | 4-{[2-(3,5-Dimethyl-1H-pyrazol-4-yl)ethyl]amino}-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | CC1=NNC(=C1CCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O)C | C19H24N4O3S
